US05710150
Using 690 mg of (E)-1-(4-aminobenzoyl)-5-(3-dimethylaminopropylidene)-4,4-difluoro-2,3,4,5-tetrahydro-1H-1-benzazepine and 430 mg of o-phenylbenzoic acid, 520 mg of free base was synthesized in the same manner as described in Reference Example 8. Next, 340 mg of the free base was dissolved in chloroform, the resulting solution was mixed with 4N hydrochloric acid ethyl acetate solution, and the solvent was evaporated. Then, the resulting residue was mixed with hexane to obtain 111 mg of (E)-4'-[[4,4-difluoro-5-(3-dimethylaminopropylidene)-2,3,4,5-tetrahydro-1H-1-benzazepin-1-yl]carbonyl]-2-phenylbenzanilide hydrochloride in the form of colorless amorphous solid.

reactant | (E)-1-(4-aminobenzoyl)-5-(3-dimethylaminopropylidene)-4,4-difluoro-2,3,4,5-tetrahydro-1H-1-benzazepine | 690 mg | NC1=CC=C(C(=O)N2CCC(/C(/C3=C2C=CC=C3)=C/CCN(C)C)(F)F)C=C1 | C22H25F2N3O
reactant | o-phenylbenzoic acid | 430 mg | C1(=CC=CC=C1)C1=C(C(=O)O)C=CC=C1 | C13H10O2
reactant | hydrochloric acid ethyl acetate | 4N | C(C)OC(C)=O.Cl
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (E)-4'-[[4,4-difluoro-5-(3-dimethylaminopropylidene)-2,3,4,5-tetrahydro-1H-1-benzazepin-1-yl]carbonyl]-2-phenylbenzanilide hydrochloride | 111 mg | Cl.FC/1(CCN(C2=C(\C1=C/CCN(C)C)C=CC=C2)C(=O)C2=CC=C(NC(C1=C(C=CC=C1)C1=CC=CC=C1)=O)C=C2)F | InChI=1S/C35H33F2N3O2.ClH/c1-39(2)23-10-16-31-30-15-8-9-17-32(30)40(24-22-35(31,36)37)34(42)26-18-20-27(21-19-26)38-33(41)29-14-7-6-13-28(29)25-11-4-3-5-12-25;/h3-9,11-21H,10,22-24H2,1-2H3,(H,38,41);1H/b31-16+;
